US06548670B1
Example 10 shows that some organic solvent-soluble nucleophiles (alkylamines, for example) can readily react with 6-bromomethyl-quinoxaline because the compound is completely soluble in the organic phase. Example 10 shows that 6-bromomethyl-quinoxaline completely reacted with n-butylamine in few minutes at room temperature to give 6-n-butylaminomethyl-quinoxaline. In this example, n-butylamine acted as both the nucleophile and the solvent.

reactant | 6-bromomethyl-quinoxaline | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
reactant | n-butylamine | C(CCC)N | C4H11N
product | 6-n-butylaminomethyl-quinoxaline | C(CCC)NCC=1C=C2N=CC=NC2=CC1 | C13H17N3
